US04092313
A 9.8 g quantity of metal potassium is dissolved in 300 ml of absolute n-butanol, 16.7 g of 2,4-dichloro-5-fluoropyrimidine is added to the solution and the mixture is stirred at 60° to 70° C for 5 hours. After the reaction, the solvent is distilled off, 50 ml of water is added to the residue and the mixture is extracted with 300 ml of toluene. The toluene layer is washed with water, dried and concentrated. The concentrate is distilled at reduced pressure to give 20.6 g of colorless oily 2,4-di(n-butoxy)-5-fluoropyrimidine in a yield of 85.1%, b.p. 125°-126° C/3-4 mm Hg.

reactant | potassium | [K] | K
reactant | 2,4-dichloro-5-fluoropyrimidine | 16.7 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | n-butanol | 300 ml | C(CCC)O | C4H10O
product | 2,4-di(n-butoxy)-5-fluoropyrimidine | 20.6 g, yield of 85.1% | C(CCC)OC1=NC=C(C(=N1)OCCCC)F | C12H19FN2O2
